US07625914B2
In a manner similar to that of Example 9(e), starting with 0.9 g (4.35 mmol) of 5-bromo-1-methyl-3-nitro-1H-[1,2,4]triazole and 1.9 g (6.5 mmol) of methyl 2(S)-ethoxy-3-[4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]propanoate, 0.9 g (62%) of methyl 2(S)-ethoxy-3-[4-(2-methyl-5-nitro-2H-[1,2,4]triazol-3-yl)phenyl]propanoate is obtained in the form of a white solid with a melting point of 119° C.

reactant | 5-bromo-1-methyl-3-nitro-1H-[1,2,4]triazole | 4.35 mmol, 0.9 g | BrC1=NC(=NN1C)[N+](=O)[O-] | C3H3BrN4O2
reactant | methyl 2(S)-ethoxy-3-[4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]propanoate | 6.5 mmol, 1.9 g | C(C)O[C@H](C(=O)OC)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H27BO5
product | methyl 2(S)-ethoxy-3-[4-(2-methyl-5-nitro-2H-[1,2,4]triazol-3-yl)phenyl]propanoate | 0.9 g, 62% | C(C)O[C@H](C(=O)OC)CC1=CC=C(C=C1)C=1N(N=C(N1)[N+](=O)[O-])C | C15H18N4O5
